US07691882B2
6-Benzyl-pyridine-3-carbaldehyde
2-Benzyl-5-[1,3]dioxolan-2-yl-pyridine (7.3 g, 30 mmol) described in Manufacturing Example 210-1-3 and 2 N hydrochloric acid (100 mL) were stirred for 55 minutes at 100° C. The reaction solution was cooled to room temperature and partitioned into ethyl acetate and a 5 N sodium hydroxide solution (40 mL). The organic layer was separated, dried over anhydrous magnesium sulfate, and filtered.

reactant | 2-Benzyl-5-[1,3]dioxolan-2-yl-pyridine | 30 mmol, 7.3 g | C(C1=CC=CC=C1)C1=NC=C(C=C1)C1OCCO1 | C15H15NO2
solvent | hydrochloric acid | 2 N, 100 mL | Cl | ClH
product | 6-Benzyl-pyridine-3-carbaldehyde | C(C1=CC=CC=C1)C1=CC=C(C=N1)C=O | C13H11NO
